US05919793
A solution of 2-(2-iodophenyl)acetic acid (0.50 g) and propan-2-ol (0.142 ml) in dry dimethylformamide (10 ml) was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.458 g) with stirring at ambient temperature under an atmosphere of argon. After 18 hours the reaction mixture was diluted with ethyl acetate (50 ml) and washed with water (3×50 ml) and brine. The aqueous layers were back-extracted with ethyl acetate (50 ml) and the organic layers were combined, dried (MgSO4) and evaporated. The residue was purified by chromatography on silica gel (Varian Band Elut S1 silica gel) eluting with dichloromethane to give 2-propyl 2-(2-iodophenyl)acetate (232 mg) as a yellow oil, NMR: 1.2(6H, d), 3.8(2H, s), 4.9(1H, m), 7.0(1H, m), 7.4(2H, d) and 7.85(1H, d).

reactant | 2-(2-iodophenyl)acetic acid | 0.50 g | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
reactant | propan-2-ol | 0.142 ml | CC(C)O | C3H8O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.458 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-propyl 2-(2-iodophenyl)acetate | 232 mg | IC1=C(C=CC=C1)CC(=O)OC(C)C | C11H13IO2
